US05824689
Jineol of 4.5 mg was dissolved in 2 ml of ethanol, and diazomethane ether solution was slowly dropped to the solution. After the excess of diazomethane and solvent was removed by purging with nitrogen gas, the solution was purified by silicagel chromatography to give 4.2 mg of 3,8-dimethoxy quinoline with 80% yield.

reactant | Jineol | C1=CC=2C=C(C=NC2C(=C1)O)O | C9H7NO2
reactant | diazomethane ether | [N+](=[N-])=C.CCOCC
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3,8-dimethoxy quinoline | 4.2 mg, 80% yield | COC=1C=NC2=C(C=CC=C2C1)OC | C11H11NO2
